US06552136B1
473.9 mg (19.5 mmols) of metal magnesium and 19.5 ml of diethyl ether were put into a 100-ml three-neck flask, to which were added a few drops of 1,2-dibromoethane. Then, 2.65 g (17.6 mmols) of neopentyl bromide was dropwise added thereto over a period of 50 minutes. This was ripened under reflux for 8 hours, and the disappearance of neopentyl bromide from it was confirmed. After restored to room temperature, the resulting solution was dropwise added to a solution of 2.60 g (15.8 mmols) of n-propyltrimethoxysilane in diethyl ether, and then refluxed for 14 hours. The disappearance of n-propyltrimethoxysilane from it was confirmed. 5 ml of methanol was added to this, and the resulting solution was filtered, dried, distilled and passed through a separation column to obtain 1.91 g of neopentyl-n-pentyldimethoxysilane. Its purity was 98.9%, and its yield was 59.5%.

reactant | magnesium | [Mg] | Mg
reactant | neopentyl bromide | 17.6 mmols, 2.65 g | C(C(C)(C)C)Br | C5H11Br
reactant | n-propyltrimethoxysilane | 15.8 mmols, 2.60 g | C(CC)[Si](OC)(OC)OC | C6H16O3Si
reactant | methanol | 5 ml | CO | CH4O
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | diethyl ether | 19.5 ml | C(C)OCC | C4H10O
catalyst | 1,2-dibromoethane | a few drops | BrCCBr | C2H4Br2
product | neopentyl-n-pentyldimethoxysilane | 1.91 g, yield was 59.5% | C(C(C)(C)C)[Si](OC)(OC)CCCCC | C12H28O2Si
